### ISSUE TITLE
Lint `refine ... ?_` where holes are immediately filled by `exact`

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#58]
We could add a linter to detect patterns where `refine ... ?_` is only used to create an elaboration hole that is immediately filled by `exact`.

e.g detect

```lean
example (P Q : Prop) (hP : P) (hQ : Q) : P ∧ Q := by
  refine And.intro ?_ ?_
  · exact hP
  · exact hQ
```

suggest:

```lean
example (P Q : Prop) (hP : P) (hQ : Q) : P ∧ Q := by
  exact And.intro hP hQ
```

Originally suggested by @kim-em.

**Comment by felixpernegger** [comment]
I dont think this is a good addition.
If could be we have a longish proof, using a chain of 5 `refine` or whatever and finally an `exact`. Then such a liter would merge all of them, leading to not very readable code

**Comment by felixpernegger** [comment]
A related linter I would find useful though, would be to lint against terminal `refine` (which always (?) can be `exact`)
